US08293909B2
Step 4: Preparation of 3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid.
1,3-bis(diphenylphosphino)propane (160 mg, 0.387 mmol) was added to a stirring solution of palladium(II) acetate (44 mg, 0.19 mmol) and 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid (275 mg, 0.645 mmol) in MeOH (2.1 mL) and DMSO (4.3 mL) at 80° C. in a Parr bomb which was charged with 150 psi CO (g) and allowed to stir overnight. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and triturated with DCM to give the expected product 3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid (176 mg, 0.434 mmol, 67% yield) consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.95 (1H, br. s.), 8.42 (1H, d, J=2.01 Hz), 8.34 (1H, d, J=2.01 Hz), 8.14-8.21 (2H, m), 7.93 (1H, dd, J=8.03, 1.76 Hz), 7.84 (1H, d, J=1.76 Hz), 7.45-7.53 (3H, m), 3.89 (3H, s), 2.32 (3H, s). LC-MS retention time: 2.16 min; m/z (MH+): 406. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 1,3-bis(diphenylphosphino)propane | 0.387 mmol, 160 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid | 0.645 mmol, 275 mg | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2C)C2=CC=C(C=C2)F | C21H13BrFNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 2.1 mL | CO | CH4O
solvent | DMSO | 4.3 mL | CS(=O)C | C2H6OS
catalyst | palladium(II) acetate | 0.19 mmol, 44 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(2-(4-fluorophenyl)-3-(methoxycarbonyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoic acid | 0.434 mmol, 176 mg, 67% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)O)C=CC2C)O1)C(=O)OC | C23H16FNO5
